US04193795
Pyridine (7.9 g, 0.1 mole) was added dropwise to a mixture of β-chloropropionylisocyanate (13.3 g, 0.1 mole) and N-(3-aminopropyl)methacrylamide hydrochloride (17.8 g, 0.1 mole) in N,N-dimethylformamide (80 ml) at 0° C. The mixture was left to stir overnight at ambient temperature. This mixture was then poured onto ice, and the product filtered. Recrystallization from absolute ethanol (400 ml) gave 1-(3-chloropropionyl)-3-methacrylamidopropyl urea, mp 131°-2° C.

reactant | Pyridine | 0.1 mole, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | β-chloropropionylisocyanate | 0.1 mole, 13.3 g | ClCCC(=O)N=C=O | C4H4ClNO2
reactant | N-(3-aminopropyl)methacrylamide hydrochloride | 0.1 mole, 17.8 g | Cl.NCCCNC(C(=C)C)=O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloropropionyl)-3-methacrylamidopropyl urea | Yield=70 percent | ClCCC(=O)N(C(=O)N)CCCNC(C(=C)C)=O | C11H18ClN3O3
